US04960672
41.3 g of 4-nitrophenylhydrazine and 33 g of phthalide were dissolved in 330 ml of acetonitrile. The solution was heated under reflux with stirring over 4 hours. The reaction solution was allowed to stand for cooling to room temperature. The resulting solid was then filtered off, and recrystallized from acetonitrile to obtain 15.1 g of 1-(2'-hydroxymethylbenzoyl)-2-(4-nitrophenyl) hydrazine (yield of 21.0%).

reactant | 4-nitrophenylhydrazine | 41.3 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | phthalide | 33 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
solvent | acetonitrile | 330 ml | C(C)#N | C2H3N
product | 1-(2'-hydroxymethylbenzoyl)-2-(4-nitrophenyl) hydrazine | 15.1 g, yield of 21.0% | OCC1=C(C(=O)NNC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C14H13N3O4
